US08426466B2
Synthesis of 4-aminosalicylamide
Methyl 4-aminosalicylate bisulfate (5 g) is suspended in 20 mL of methanol. To the solution, 20 mL of 28% ammonium hydroxide is added slowly until all solid is dissolved. The reaction mixture is stirred at ambient conditions overnight. Solvent is removed under reduced pressure and water is lyophilized. The residue is collected, washed with minimum amount of ice water and dried to yield 2.5 g of the product as off-white powders.

reactant | Methyl 4-aminosalicylate bisulfate | 5 g | S(O)(O)(=O)=O.NC=1C=C(C(C(=O)OC)=CC1)O
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-aminosalicylamide | 2.5 g | NC=1C=C(C(C(=O)N)=CC1)O | C7H8N2O2
